Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
lisinopril / morphine
 
Attending: ___.
 
Chief Complaint:
Worsening ascites/abdominal pain
 
Major Surgical or Invasive Procedure:
___ Paracentesis
___ Exploratory laparotomy with primary ___ patch
repair of perforated gastric ulcer.
___ Mesenteric angiogram

 
History of Present Illness:
___ y/o F w/EtOH cirrhosis, NASH, HTN, asthma and depression who 
presented to ___ for abdominal pain and distension. Of note, pt 
is a somewhat limited historian. Per her report, she was 
diagnosed with cirrhosis in ___. She has a ___ drinking 
history of ___ glasses of wine last night, quit in ___ after 
a fall. Pt first noticed abdominal swelling in ___. Pt had a 
long admission at ___ ~2 weeks ago, during which time she had 
ARF, rectal bleeding and anemia. During that hospitalization, 
she had a paracentesis that was negative for SBP, which she does 
not remember. She was notably started on lactulose for HE. Pt 
was discharged from the hospital in late ___, but quickly 
developed worsening abdominal distention and abdominal pain ___ 
after discharge. She presented again to ___ on ___. MELD 27 on 
admission. She was found to have Cr 2.6(previously 1.22), normal 
renal ultrasound. She was seen by renal, and she was started on 
midodrine, octreotide and albumin, presumably for T2 HRS. It is 
not clear if she had an albumin challenge. She had a LVP on 
___ with removal of 8L ascites. Fluid showed ___ WBCs (88% 
PMNs) and ascites cx grew Klebsiella oxytoca resistant to 
ampicillin. Bcx were negative. Pt was started on CTX and later 
changed to levofloxacin on ___ per ID. Pt was also notably 
hyponatremic throughout her admission. She had been on 
Lasix/spironolactone prior to her admission, but this was held. 
After discussion with gastroenterology, a decision was made to 
transfer patient to ___ for further care. Prior to transfer, 
pt reports that she had another paracentesis, although we do not 
have laboratory data for this yet.
Prior to transfer, labs were notable for:
CBC: 14.6>12.3/34.3<218
Lactate: 2.9
TSH: 10.2 (on ___ -> started levothyroxine
Na: 125
HCO3: 15
BUN/Cr: 2.73
TBili: 3.4
On arrival, pt reports feeling "fuzzy". She otherwise denies any 
abdominal pain, n/v, fevers. She notes that her abdomen has 
gotten bigger since her paracentesis.
REVIEW OF SYSTEMS: Per HPI
 
Past Medical History:
EtOH cirrhosis
-c/b thrombocytopenia, anemia, rectal bleeding
___ found in ___ on liver biopsy
History of duodenal ulcer in her ___
Depression
Anxiety
PTSD
Athritis
Herniated discs
OSA
Asthma
 
Social History:
___
Family History:
CAD, EtOH abuse, bipolar disorder. No FHx of autoimmune disease. 
 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: 98.0; 105 / 63; 101; 21; 95 RA  
 ___: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: soft, moderately distended with positive fluid wave. 
Bowel sounds present, no rebound tenderness or guarding, no 
organomegaly  
 Ext: Warm, well perfused, no cyanosis or edema  
 Skin: Without rashes or lesions  
 Neuro: A&Ox3. Grossly intact. No asterixis.  

Discharge:
A&O, NAD
RRR
Clear
Abdomen distended, soft, non-tender. Incision c/d/I. staples 
removed
Ext -no edema
Wt 65.2kg on ___
 
Pertinent Results:
ADMISSION LABS
-------------------
___ 04:39AM BLOOD WBC-19.0* RBC-4.54 Hgb-13.2 Hct-37.7 
MCV-83 MCH-29.1 MCHC-35.0 RDW-14.2 RDWSD-42.6 Plt ___
___ 04:39AM BLOOD ___ PTT-33.5 ___
___ 04:39AM BLOOD Glucose-92 UreaN-66* Creat-3.3* Na-122* 
K-3.9 Cl-83* HCO3-14* AnGap-29*
___ 04:39AM BLOOD ALT-10 AST-25 AlkPhos-81 TotBili-3.5*
___ 04:39AM BLOOD Calcium-8.4 Phos-4.8* Mg-1.7
___ 04:39AM BLOOD ___
___ 04:39AM BLOOD HCV Ab-Negative
___ 11:04AM BLOOD Lactate-5.4*
___ 07:00PM URINE Color-Yellow Appear-Hazy Sp ___
___ 07:00PM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-TR Ketone-TR Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 07:00PM URINE RBC-6* WBC-3 Bacteri-FEW Yeast-NONE 
Epi-11
___ 07:00PM URINE CastHy-45*
___ 07:00PM URINE Hours-RANDOM UreaN-203 Creat-91 Na-<20 
Cl-<20 TotProt-56 Prot/Cr-0.6*

IMAGING
----------
DUPLEX DOPPLER ABDOMEN/PELVIS (___):  
1. Flow within the portal vein is not demonstrable, highly 
suspicious for
portal thrombus. CT or MR could be obtained for further 
evaluation if
clinically indicated.
2. Cirrhotic liver with complex ascites.  No splenomegaly or 
suspicious focal
lesion.
3. Cholelithiasis.

CT ABDOMEN/PELVIS WITHOUT CONTRAST (___): 1. Large amount of 
intraperitoneal free air likely arising from a perforated
gastric/ proximal duodenum ulcer as extraluminal contrast is 
noted around the
proximal duodenum.  Surgical consultation is recommended.
2. Cirrhotic liver morphology with a moderate amount of 
abdominopelvic
ascites.
3. Cholelithiasis
4. Partially evaluated 7 mm nodule in the right lung.  
___
recommendations for follow up of pulmonary nodules: Solid 
nodules >6 - 8 mm:
Low risk: Follow-up at ___ months and if no change, again at 
___ months.
High risk: Follow-up at ___ months and if no change, again at 
___ and 24
months.
 
RECOMMENDATION(S):  The ___ pulmonary nodule 
recommendations
are intended as guidelines for follow-up and management of newly 
incidentally
detected pulmonary nodules smaller than 8 mm, in patients ___ 
years of age or
older. Low risk patients have minimal or absent history of 
smoking or other
known risk factors for primary lung neoplasm. High risk patients 
have a
history of smoking or other known risk factors for primary lung 
neoplasm.

Discharge Labs:

___ 04:49AM BLOOD WBC-15.5* RBC-2.94* Hgb-8.9* Hct-26.6* 
MCV-91 MCH-30.3 MCHC-33.5 RDW-22.2* RDWSD-63.1* Plt ___
___ 05:04AM BLOOD WBC-14.4* RBC-2.86* Hgb-8.5* Hct-25.9* 
MCV-91 MCH-29.7 MCHC-32.8 RDW-21.6* RDWSD-60.2* Plt ___
___ 05:23AM BLOOD WBC-13.9* RBC-2.96* Hgb-8.8* Hct-26.8* 
MCV-91 MCH-29.7 MCHC-32.8 RDW-21.3* RDWSD-59.7* Plt ___
___ 05:23AM BLOOD ___
___ 04:49AM BLOOD Glucose-102* UreaN-23* Creat-0.9 Na-132* 
K-5.1 Cl-95* HCO3-23 AnGap-19
___ 05:04AM BLOOD Glucose-144* UreaN-25* Creat-0.9 Na-137 
K-4.3 Cl-99 HCO3-23 AnGap-19
___ 05:07AM BLOOD ALT-13 AST-36 AlkPhos-175* TotBili-8.5*
___ 05:23AM BLOOD ALT-13 AST-34 AlkPhos-173* TotBili-6.9*
___ 05:04AM BLOOD ALT-15 AST-38 AlkPhos-173* TotBili-5.6*
___ 03:12AM BLOOD TSH-1.7
___ 03:12AM BLOOD T4-2.2* T3-46*

 
 
___ 1:13 pm PERITONEAL FLUID

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   FUNGAL CULTURE (Preliminary): 

 
Brief Hospital Course:
___ year old woman with EtOH and NASH cirrhosis, HTN, asthma and 
depression who presented to OSH for abdominal pain and 
distension, transferred to ___ for management of SBP, 
hyponatremia and acute renal failure.

Patient was admitted to ___ and found to have 
Klebsiella peritonitis from paracentesis done on ___. Blood 
cultures were negative. Another paracentesis was done on ___ 
before transfer, but no cultures or cell counts were sent. Upon 
admission ___, she was transitioned to vancomycin/cefepime for 
worsening WBC, lactate, and renal failure.  She was oliguric, 
and urine studies suggested intravascular depletion, possibly 
HRS triggered by infectious process, but also possibly sepsis. 
She was treated with albumin challenge 75 g 25% and started on 
Midodrine 5 mg TID and octreotide 100 mcg q8h. Para was 
performed on ___ with cell count of wbc 29,500. 

 
She was not oriented to time or place, but did know she was in a 
hospital and was appropriate. She is stable from yesterday. 
Asterixis vs tremor. She was started on lactulose and rifaximin. 


RUQ US demonstrated right and left portal veins notable for lack 
of demonstrable internal flow with concern for PVT. She had no 
signs of mesenteric ischemia at this time and therefore decision 
to treat with therapeutic anticoagulation was held off. She was 
continued on subcutaneous Heparin for DVT prophylaxis. 

However, white count continued to increase and renal failure 
worsened. She remained hemodynamically stable. Abdominal US 
showed loculated ascites. CT abdomen/pelvis on ___ revealed 
large amount of intraperitoneal free air likely arising from a 
perforated gastric/ proximal duodenum ulcer. She underwent 
emergent laparotomy with primary ___ patch repair of 
perforated gastric ulcer on ___. Surgeon was Dr. ___ 
___. Please refer to operative note for complete details. 
H.pylori was negative. 

She remained intubated and was transferred to the SICU for 
management. On ___, she was extubated.  RUQ US was done which 
showed evidence of a  PVT. She was kept NPO and trickle tube 
feeds were started. However on postop day 8, she self removed 
the NG and feeding tube. TPN was started. CRRT was done until 
___.

On ___, she was GI bleeding. Hematocrit decreased to 18.8. She 
was given 3 PRBC and ___ FFP with HCT increase to 20.9. ___ 
performed a mesenteric angiogram noting no source of bleeding 
and a completely occluded celiac artery. No embolization was 
able to be performed. She continued to drop her hct for several 
days, and was given multiple units of PRBC, FFP, PLT, Cryo, and 
Vitamin K. Melena continued with persistent transfusion 
requirement. BID PPI and Octreotide were given. 

UGI on ___ did not show a leak. Clear diet was started which 
she tolerated with progression to mechanical soft with 
supplements. On ___, hct dropped to 19. Another unit of prbc 
was transfused with hct increase to 23.  

JP drain output (non-bloody)was copious requiring scheduled 
albumin repletions. JP was removed on ___ with site sutured. 
Incision staples were removed. 

Vancomycin was switched to Linezolid per sensitivities on ___ 
for ___ peritoneal fluid micro that isolated yeast, 
enterococcus, linezolid sensitive. On ___, 
Linezolid/Zosyn/Fluc were stopped. The last dose of Ceftriaxone 
was given on ___.  

LFTs were notable for increasing t.bili to as high as 12.5 from 
admission 3.5. Alk phos increased as well to 170s. Unclear 
etiology for increase other than decompensated liver function in 
conjunction with multiple blood transfusions. Liver U/S ___ 
showed patent portal vein, cirrhotic liver with gallbladder 
sludge without focal lesion.  

Lasix and aldactone were started on ___, but held when she 
developed an ileus on ___. She was nauseated and vomited.  KUB 
findings confirmed ileus. She was kept npo with TPN until 
resolution in ___. Repeat paracentesis confirmed peritonitis 
on ___ (1.5L). Ascites wbc 513 with polys 74. Diuretics were 
held and albumin was given. Antibiotics were resumed for 
peritonitis (Linezolid/Zosyn and Fluc). The JP drain was removed 
and site sutured. 

On ___, ID recommended Ceftriaxone 2g x 5d, then prophylactic 
antibiotic. Ceftriaxone was started on ___ and discontinued on 
___. Ciprofloxacin was then started for SBP prophylaxis.  

She was given 1 unit of PRBC for a hct of 22 on ___. Melena 
resolved. Over subsequent days, ileus as well as melena with 
transfusion requirement resolved. She had been  started on 
Lactulose as mental status was sluggish on ___ with 
improvement. Goal was ___ BMs per day. 

She had been placed on a mechanical soft diet (barely eating) 
and was tolerating cycled tube feeds. TPN was weaned off. 
Mechanical soft diet was changed to a regular diet on ___. Hct 
was 26.6 on ___.  

She was discharged in stable condition with f/u scheduled for 
___ ___ (Hepatologist).    
  

 
  

 
 

  

 

  

#Hypothyroidism: Diagnosed this hospitalization.  Continue 
levothyroxine  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
2. Furosemide 40 mg PO DAILY 
3. Sertraline 100 mg PO DAILY 
4. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
5. Metoprolol Succinate XL 100 mg PO DAILY 
6. Losartan Potassium 100 mg PO DAILY 
7. Chlorthalidone 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q24H SBP prophylaxis  
2.  FoLIC Acid 1 mg PO DAILY  
3.  Lactulose 30 mL PO DAILY:PRN Constipation 
Titrate to ___ BMs daily. ___ MD if change in mental status.  
  
4.  Levothyroxine Sodium 25 mcg PO DAILY  
5.  Pantoprazole 40 mg PO Q12H  
6.  Spironolactone 150 mg PO DAILY  
7.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB  
8.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID  
9.  Furosemide 40 mg PO DAILY  
10.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Gastric ulcer
ETOH cirrhosis, decompensation
ARF
Peritonitis, klebsiella
Leukocytosis/Sepsis
Malnutrition, severe
anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You will be transferring to Northeast Rehab in ___, New 
___

Please call Dr. ___ ___ you have any of the 
following: fever (temperature of 101 or greater), chills, 
confusion, nausea, vomiting, bloody vomit, abdominal pain, 
abdominal distension, incision redness/drainage, jaundice, or 
bloody bowel movements
 
Followup Instructions:
___